US08314240B2
311 mg of methyl 4-{[(6-{[(4-methyl-1,3-thiazol-2-yl)sulfonyl]amino}-2,3-dihydro-1H-inden-5-yl)oxy]methyl}benzoate, 63.6 mg of 2-fluoro-1-propanol, and 356 mg of triphenylphosphine were dissolved in 4.0 mL of THF, and 591 mg of diethyl azodicarboxylate was added thereto under ice-cooling, followed by stirring at room temperature for 20 hours. The reaction liquid was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=100:0 to 60:40) to obtain 364 mg of methyl 4-{[(6-{(2-fluoropropyl)[(4-methyl-1,3-thiazol-2-yl)sulfonyl]amino}-2,3-dihydro-1H-inden-5-yl)oxy]methyl}benzoate.

reactant | methyl 4-{[(6-{[(4-methyl-1,3-thiazol-2-yl)sulfonyl]amino}-2,3-dihydro-1H-inden-5-yl)oxy]methyl}benzoate | 311 mg | CC=1N=C(SC1)S(=O)(=O)NC1=C(C=C2CCCC2=C1)OCC1=CC=C(C(=O)OC)C=C1 | C22H22N2O5S2
reactant | 2-fluoro-1-propanol | 63.6 mg | FC(CO)C | C3H7FO
reactant | triphenylphosphine | 356 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 591 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
product | methyl 4-{[(6-{(2-fluoropropyl)[(4-methyl-1,3-thiazol-2-yl)sulfonyl]amino}-2,3-dihydro-1H-inden-5-yl)oxy]methyl}benzoate | 364 mg | FC(CN(C1=C(C=C2CCCC2=C1)OCC1=CC=C(C(=O)OC)C=C1)S(=O)(=O)C=1SC=C(N1)C)C | C25H27FN2O5S2
